US05155122
Methyl isocyanate (1.02 g, 18 mmol) is added dropwise to a solution of the 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid, hydrazide (2.35 g, 8.9 mmol) in absolute ethanol (100 ml). The reaction mixture is stirred at room temperature, concentrated, and poured into ice water. The precipitate (1.2 g) is collected by filtration and dissolved in two equivalents of 1N NaOH. The reaction mixture is refluxed for three hours, and then is cooled and neutralized. The product is extracted into ethyl acetate. Pure 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2,4-dihydro-4-methyl-3H-1,2,4-triazol-3-one (0.8 g, 30%) is obtained by recrystallization from methanol, mp 308°-312° C.

reactant | Methyl isocyanate | 18 mmol, 1.02 g | CN=C=O | C2H3NO
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzoic acid, hydrazide | 8.9 mmol, 2.35 g | CC(C)(C)C=1C=C(C(=O)NN)C=C(C1O)C(C)(C)C | C15H24N2O2
reactant | NaOH | 1N, two equivalents | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-2,4-dihydro-4-methyl-3H-1,2,4-triazol-3-one | 0.8 g, 30% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N(C(NN1)=O)C | C17H25N3O2
